US07018988B2
(2S,4EZ)-1-([1,1′-biphenyl]-4-ylsulfonyl)-N-[(2RS)-2-hydroxy-2-(4-hydroxyphenyl)ethyl]4-(methoxyimino)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, [1,1′-biphenyl]-4sulfonyl chloride, and 4-[(1RS)-2-amino-1-hydroxyethyl]phenol, the title compound was obtained in 72% purity by HPLC. MS(ESI+): m/z=510.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | [1,1′-biphenyl]-4sulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C1=CC=CC=C1 | C12H9ClO2S
reactant | 4-[(1RS)-2-amino-1-hydroxyethyl]phenol | NCC(O)C1=CC=C(C=C1)O | C8H11NO2
product | (2S,4EZ)-1-([1,1′-biphenyl]-4-ylsulfonyl)-N-[(2RS)-2-hydroxy-2-(4-hydroxyphenyl)ethyl]4-(methoxyimino)-2-pyrrolidinecarboxamide | C1(=CC=C(C=C1)S(=O)(=O)N1[C@@H](CC(C1)=NOC)C(=O)NCC(C1=CC=C(C=C1)O)O)C1=CC=CC=C1 | C26H27N3O6S
